US09447090B2
To 448 mg of (2R,3R)-3-amino-3-phenylpropane-1,2-diol hydrochloride were added 18 ml of dichloromethane, 0.77 ml of triethylamine, and 0.53 g of di-tert-butyl dicarbonate, followed by stirring for 3 hours, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 620 mg of tert-butyl[(1R,2R)-2,3-dihydroxy-1-phenylpropyl]carbamate.

reactant | (2R,3R)-3-amino-3-phenylpropane-1,2-diol hydrochloride | 448 mg | Cl.N[C@@H]([C@H](CO)O)C1=CC=CC=C1
reactant | dichloromethane | 18 ml | ClCCl | CH2Cl2
reactant | di-tert-butyl dicarbonate | 0.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl[(1R,2R)-2,3-dihydroxy-1-phenylpropyl]carbamate | 620 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CO)O)C1=CC=CC=C1)=O | C14H21NO4
